US07022696B2
A11. (cis)-4-[4-(7-Methoxy-2,2-dimethyl-2,3-dihydro-benzofuran-4-yl)-1-oxo-4a,5,8,8a-tetrahydro-1H-phthalazin-2-ylmethyl]-benzoic acid
To a solution of 0.05 mole of (cis)-4-(7-Methoxy-2,2-dimethyl-2,3-dihydro-benzofuran-4-yl)-4a,5,8,8a-tetrahydro-2H-phthalazin-1-one (starting compound A12) and 0.15 mole of sodium hydride in 100 ml of dimethylformamide is stirred at RT for 30 min, after which 0.05 mole of 4-chloromethylbenzoic acid is added. This mixture is left stirring for 18 h, after which it is poured into water. This solution is acidified with hydrochloric acid and subsequently extracted with dichloromethane. The organic solution is dried over magnesium sulfate and evaporated. The compound is crystallized from diethyl ether.

reactant | (cis)-4-(7-Methoxy-2,2-dimethyl-2,3-dihydro-benzofuran-4-yl)-4a,5,8,8a-tetrahydro-2H-phthalazin-1-one | 0.05 mole | COC1=CC=C(C=2CC(OC21)(C)C)C2=NNC([C@H]1CC=CC[C@@H]21)=O | C19H22N2O3
reactant | sodium hydride | 0.15 mole | [H-].[Na+]
reactant | 4-chloromethylbenzoic acid | 0.05 mole | ClCC1=CC=C(C(=O)O)C=C1 | C8H7ClO2
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | (cis)-4-[4-(7-Methoxy-2,2-dimethyl-2,3-dihydro-benzofuran-4-yl)-1-oxo-4a,5,8,8a-tetrahydro-1H-phthalazin-2-ylmethyl]-benzoic acid | COC1=CC=C(C=2CC(OC21)(C)C)C2=NN(C([C@H]1CC=CC[C@@H]21)=O)CC2=CC=C(C(=O)O)C=C2 | C27H28N2O5
